US05153318
b) 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-phenoxy-9H-purine
To 800 mL of an aqueous pH 6.0, 50 mm citrate buffer, prepared as described in Example 2c' was added 2-amino-6-phenoxy-9H-purine (0.181 g, 0.8 mmol) and 3'-azido-3'-deoxythymidine (1.069 g, 4.0 mmol). Solution was achieved by heating the mixture at 50° C. with sonication. A sample was removed as a control. A 40 mL solution of trans-N-deoxyribosylase (Example 2b) with an activity of 1500 units/mL was added. The reaction was heated at 50° C. Six days later, 0.181 g, 0.8 mmol, of 2-amino-6-phenoxypurine was added to the reaction. Fifteen days after the reaction was started, another 0.181 g, 0.8 mmol, of 2-amino-6-phenoxypurine and 0.428 g, 1.6 mmol, of 3'-azido-3'-deoxythymidine were added to the reaction. The reaction was stopped after thirty-three days, by heating to 80° C. to precipitate the enzyme, and filtered. The aqueous solution was extracted with ethyl acetate to remove the product. The combined ethyl acetate fractions were dried with magnesium sulfate, filtered and the solvent removed in vacuo to give a foam. The foam was chromatographed on basic alumina grade 1 eluted with chloroform/methanol (99:1, v/v). The fractions containing product were combined and the solvent removed in vacuo to give the product as a foam, 0.48 g, 54% yield.

reactant | citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | 2-amino-6-phenoxy-9H-purine | 0.8 mmol, 0.181 g | NC1=NC(=C2N=CNC2=N1)OC1=CC=CC=C1 | C11H9N5O
reactant | 3'-azido-3'-deoxythymidine | 4.0 mmol, 1.069 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
product | 2-Amino-9-(3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-6-phenoxy-9H-purine | 54% yield | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)N=[N+]=[N-])OC1=CC=CC=C1 | C16H16N8O3
